US04337354
Step C. 5,6-Dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one
5,6-Dichloro-9a-ethyl-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (15 gm., 0.048 mole) is mixed with pyridine hydrochloride (120 gm.) in a reaction vessel and heated in a metal bath at 195°-200° C. for 30 minutes. The mixture is cooled somewhat and poured with stirring into cold water (800 ml.). The solid that separates is removed by filtration and washed with water. After drying, the product is triturated with acetonitrile (80 ml.) at 60°, cooled, filtered and dried. The yield of crude 5,6-dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one is 12.2 gm., m.p. 260°-265° C. This material is pure enough for use in the next step.

reactant | 5,6-Dichloro-9a-ethyl-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.048 mole, 15 gm | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OC)CC)=O | C16H16Cl2O2
reactant | pyridine hydrochloride | 120 gm | Cl.N1=CC=CC=C1
solvent | water | 800 ml | O | H2O
product | 5,6-Dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)O)CC)=O | C15H14Cl2O2
